US06579886B2
Preparation of [3S,4aR,6S,8aR]-Ethyl-6-((4-ethoxycarbonyl-5-methyl-1H-imidazol-1-yl)methyl)-2-(methoxycarbonyl)-1,2,3,4,4a,5,6,7,8,8a-decahydroisoquinoline-3-carboxylate.
Sodium hydride (0.24 g, 1.2 eq) was washed with hexanes (3×10 ml) and suspended in dry THF (10 ml). To this was added a solution of 0.848 g of ethyl 4-methyl-5-imidazolecarboxylate in THF (5 ml) dropwise. The reaction mixture was stirred at 20° C. for 1.5 h and DMF (10 ml) was added. To the resulting solution was slowly added a solution of 2.43 g of [3S,4aR,6S,8aR]-ethyl-6-((3-nitrophenylsulfonyloxy)methyl)-2-(methoxycarbonyl)-1,2,3,4,4a,5,6,7,8,8a-decahydroisoquinoline-3-carboxylate in THF (10 ml). The reaction was stirred at ambient temperature over night under N2. The reaction was quenched with saturated aqueous sodium bicarbonate. The resulting white solid was removed by filtration and the filtrate was extracted with ethyl acetate (3×10 ml). The combined organic extract was washed with brine, dried (MgSO4), filtered, and evaporated to a light brown oil. The crude product was chromatographed over silica gel eluting with ethyl acetate to give 1.09 g of the intermediate title compound: MS m/z: 456.3 (m++1);

reactant | Sodium hydride | 0.24 g, 1.2 eq | [H-].[Na+]
reactant | ethyl 4-methyl-5-imidazolecarboxylate | 0.848 g | CC=1N=CNC1C(=O)OCC | C7H10N2O2
reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
reactant | [3S,4aR,6S,8aR]-ethyl-6-((3-nitrophenylsulfonyloxy)methyl)-2-(methoxycarbonyl)-1,2,3,4,4a,5,6,7,8,8a-decahydroisoquinoline-3-carboxylate | 2.43 g | C(C)OC(=O)[C@H]1N(C[C@@H]2CC[C@@H](C[C@@H]2C1)COS(=O)(=O)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OC | C21H28N2O9S
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | [3S,4aR,6S,8aR]-Ethyl-6-((4-ethoxycarbonyl-5-methyl-1H-imidazol-1-yl)methyl)-2-(methoxycarbonyl)-1,2,3,4,4a,5,6,7,8,8a-decahydroisoquinoline-3-carboxylate | 1.09 g | C(C)OC(=O)[C@H]1N(C[C@@H]2CC[C@@H](C[C@@H]2C1)CN1C=NC(=C1C)C(=O)OCC)C(=O)OC | C22H33N3O6
